US04360674
5-Bromo-1-(1-methylethyl)-2-[2-[4-(3-trifluoromethylphenyl)-1-piperazinyl]ethyl]-1H-naphth[1,2-d]imidazole
The compound of the title is prepared by condensing 5-bromo-2-(2-chloroethyl)-1-(1-methylethyl)-1H-naphth[1,2-d]imidazole hydrochloride with 1-(3-trifluoromethylphenyl)piperazine. M.p. 161°-62° C. (from ethanol).

reactant | 5-bromo-2-(2-chloroethyl)-1-(1-methylethyl)-1H-naphth[1,2-d]imidazole hydrochloride | Cl.BrC1=CC2=C(N(C(=N2)CCCl)C(C)C)C2=CC=CC=C12
reactant | 1-(3-trifluoromethylphenyl)piperazine | FC(C=1C=C(C=CC1)N1CCNCC1)(F)F | C11H13F3N2
solvent | ethanol | C(C)O | C2H6O
product | 5-Bromo-1-(1-methylethyl)-2-[2-[4-(3-trifluoromethylphenyl)-1-piperazinyl]ethyl]-1H-naphth[1,2-d]imidazole | BrC1=CC2=C(N(C(=N2)CCN2CCN(CC2)C2=CC(=CC=C2)C(F)(F)F)C(C)C)C2=CC=CC=C12 | C27H28BrF3N4
